US05455258
Glycine ethyl ester hydrochloride (31.39 g, 225.0 mmol) is dissolved in dioxane (150 mL) and water (150 mL), triethylamine (69.0 mL, 495.0 mmol) is added, and the solution is cooled to 0° C. To this solution is added 4-methoxybenzenesulfonyl chloride (51.15 g, 248.0 mmol) over 10 minutes. The reaction is warmed to room temperature and stirred overnight. The next day the mixture is reduced to one-half volume by evaporating solvent, diluted with 1N sodium hydroxide, and extracted well with ether. The combined organic layers are washed with brine, dried (Na2SO4), and the solvent is evaporated. The product is recrystallized from ether/ethyl acetate/hexanes to give ethyl 2-[[4-methoxybenzenesulfonyl]amino]acetate.

reactant | Glycine ethyl ester hydrochloride | 225.0 mmol, 31.39 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 495.0 mmol, 69.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 248.0 mmol, 51.15 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 150 mL | O | H2O
product | ethyl 2-[[4-methoxybenzenesulfonyl]amino]acetate | COC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OCC | C11H15NO5S
